US05306827
Preparation of 2-(p-Chlorophenyl)-3-[(trifluoromethyl)sulfonyl]-5-[(trifluoromethyl)thio]pyrrole
A solution of 2-(p-chlorophenyl)-3-[(trifluoromethyl)sulfonyl]pyrrole (2.47 g, 0.0080 mol), trifluoromethylsulfenyl chloride (2.18 g, 0.016 mol), trifluoromethanesulfonic acid (0.12 g, 0.0008 mol) and 1,2-dichloroethane (15 mL) is placed in a pressure tube, heated at 70° C. for five days, diluted with methylene chloride, washed with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an amber syrup. Flash chromatography of the syrup using silica gel and a 1:5 ethyl acetate/hexanes solution gives the title product as an off-white solid (2.36 g, mp 118°-122° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-(p-chlorophenyl)-3-[(trifluoromethyl)sulfonyl]pyrrole | 0.0080 mol, 2.47 g | ClC1=CC=C(C=C1)C=1NC=CC1S(=O)(=O)C(F)(F)F | C11H7ClF3NO2S
reactant | trifluoromethylsulfenyl chloride | 0.016 mol, 2.18 g | FC(SCl)(F)F | CClF3S
reactant | trifluoromethanesulfonic acid | 0.0008 mol, 0.12 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(p-Chlorophenyl)-3-[(trifluoromethyl)sulfonyl]-5-[(trifluoromethyl)thio]pyrrole | 2.36 g | ClC1=CC=C(C=C1)C=1NC(=CC1S(=O)(=O)C(F)(F)F)SC(F)(F)F | C12H6ClF6NO2S2
